US04230484
Diethyloxalate (133 g) and p-fluoroaniline (100 g) were refluxed together for 2 hours, during which time the temperature dropped from 160° to 100°. The dark coloured mixture (with suspended crystalline solid) so produced was allowed to cool to 90°, and then diluted with ethanol (100 ml). After cooling overnight, the crystalline product was filtered off and washed thoroughly with cyclohexane. The white solid so obtained, was thoroughly dried to give ethyl 4'-fluorooxanilate (114 g; 60% yield), m.p. 117°-119° (with softening at 116°).

reactant | Diethyloxalate | 133 g | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | p-fluoroaniline | 100 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4'-fluorooxanilate | 114 g, 60% yield | CCOC(=O)C(=O)NC1=CC=C(C=C1)F | C10H10FNO3
